US04594341
4-N-(Carbomethoxymethyl)-6-(carboethoxy-3-phenylpropylamino)-perhydro-1,4-thiazepin-5-one
6-Amino-4-N-(carbomethoxymethyl)perhydro-1,4-thiazepin-5-one, trifluoroacetate salt (0.166 g), sodium acetate (0.04 g), and ethyl 2-keto-4-phenylbutyrate are dissolved in 1 ml of methanol. After 1/2 hour at room temperature, a solution of sodium cyanoborohydride (0.16 g) in 0.5 ml of methanol is added dropwise over a period of one hour. At the end of seven hours, the reaction mixture is partitioned between chloroform and water. The aqueous phase is adjusted to pH 10 with sodium bicarbonate. The organic layer is separated and washed two more times with water. After chromatography on silica gel (1:1 ethyl acetate-hexanes), the product is obtained as an oil (0.17 g). The NMR spectrum shows a singlet at 7.2, complex absorption between 3.7 and 4.4, a multiplet between 3.1 and 3.4, a multiplet between 3.6 and 3.9, a multipet between 1.9 and 2.2, and a triplet at 1.3.

reactant | 6-Amino-4-N-(carbomethoxymethyl)perhydro-1,4-thiazepin-5-one, trifluoroacetate salt | 0.166 g | FC(C(=O)O)(F)F.NC1C(N(CCSC1)CC(=O)OC)=O
reactant | sodium acetate | 0.04 g | C(C)(=O)[O-].[Na+]
reactant | ethyl 2-keto-4-phenylbutyrate | O=C(C(=O)OCC)CCC1=CC=CC=C1 | C12H14O3
reactant | sodium cyanoborohydride | 0.16 g | C(#N)[BH3-].[Na+]
solvent | methanol | 1 ml | CO | CH4O
solvent | methanol | 0.5 ml | CO | CH4O
product | 4-N-(Carbomethoxymethyl)-6-(carboethoxy-3-phenylpropylamino)-perhydro-1,4-thiazepin-5-one | 0.17 g | C(=O)(OC)CN1CCSCC(C1=O)N(CCCC1=CC=CC=C1)C(=O)OCC | C20H28N2O5S
